US06593330B2
Step 1: 2-Chloro-6-[(2-methoxybenzyl)oxy]pyrazine
The title compound was prepared according to the procedure of example 4, step 1 starting from 2,6-dichloropyrazine (298 mg, 2.00 mmol), 2-methoxybenzyl alcohol (303 mg, 2.20 mmol) and NaH (55% in mineral oil, 96 mg, 2.2 mmol). The yield of the crude product was 0.49 g (98%) and was used directly as such in the next step. MS m/z 250 (M)+. HRMS m/z calcd for C12H11ClN2O2 (M)+ 250.0509, found 250.0522.

reactant | 2,6-dichloropyrazine | 2.00 mmol, 298 mg | ClC1=NC(=CN=C1)Cl | C4H2Cl2N2
reactant | 2-methoxybenzyl alcohol | 2.20 mmol, 303 mg | COC1=C(CO)C=CC=C1 | C8H10O2
reactant | NaH | 2.2 mmol, 96 mg | [H-].[Na+]
product | 2-Chloro-6-[(2-methoxybenzyl)oxy]pyrazine | ClC1=NC(=CN=C1)OCC1=C(C=CC=C1)OC | C12H11ClN2O2
